US08871361B2
Synthesis of N-(2,6-diisopropylphenyl)-5-methoxy-[1,1′-biphenyl]-3-carboximidamide
To a 500 mL 3 neck flask, 2,6-diisopropylaniline (4.99 g, 27.3 mmol) and 100 mL toluene were charged. The mixture was cooled down in ice bath. Trimethylaluminum (20.48 mL, 41.0 mmol) was added dropwise via additional funnel. The reaction mixture was stirring at RT for 2 hours. Then, to the mix, added 5-methoxy-[1,1′-biphenyl]-3-carbonitrile (6.0 g, 28.7 mmol) dissolved in 50 mL toluene. The reaction mixture was heated to 70° C. overnight under a nitrogen atmosphere. The reaction mixture was cooled in an ice bath and poured it into silica gel mixed with DCM and methanol (2:1 ratio of DCM:methanol). The slurry was stirred and filtered and washed with DCM and methanol. The solvent was evaporated. The solid remaining after evaporation of solvent was added to 150 mL hexane and the mixture was stirred. The mixture was filtered and washed with hexane. After removal of solvent, 6.8 g of product was obtained for next step.

reactant | 2,6-diisopropylaniline | 27.3 mmol, 4.99 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | Trimethylaluminum | 41.0 mmol, 20.48 mL | C[Al](C)C
reactant | 5-methoxy-[1,1′-biphenyl]-3-carbonitrile | 28.7 mmol, 6.0 g | COC=1C=C(C=C(C1)C1=CC=CC=C1)C#N | C14H11NO
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | N-(2,6-diisopropylphenyl)-5-methoxy-[1,1′-biphenyl]-3-carboximidamide | 6.8 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(=N)C=1C=C(C=C(C1)OC)C1=CC=CC=C1 | C26H30N2O
